US09328110B2
To a stirred solution of N-methoxy-N-methyl-4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyramide (4.80 g, 14.1 mmol) in THF (100 mL) in a dry ice/isopropanol bath was added a solution of isobutylmagnesium chloride (28 mL of a 2 M solution in diethyl ether, 56 mmol) over a period of several minutes. When addition was complete, the reaction flask was removed from the cold bath and the mixture stirred for 4 hours at room temperature. A 10% solution of hydrochloric acid in water (3 mL) was added slowly, followed by a saturated solution of sodium bicarbonate in water (15 mL) and dichloromethane (100 mL). The layers were separated, the aqueous phase extracted with dichloromethane (1×75 mL), and the combined organics dried over potassium carbonate, filtered, and concentrated under reduced pressure. After chromatography on silica gel (elution with 5% methanol in dichloromethane) 6-methyl-1-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)heptan-4-one (2.40 g) was obtained as an oil.

reactant | N-methoxy-N-methyl-4-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)butyramide | 14.1 mmol, 4.80 g | CON(C(CCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)=O)C | C19H24N4O2
reactant | isobutylmagnesium chloride | C(C(C)C)[Mg]Cl
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-methyl-1-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)heptan-4-one | 2.40 g | CC(CC(CCCN1C(=NC=2C=NC=3C=CC=CC3C21)CCC)=O)C | C21H27N3O
